US04166178
In N,N-dimethylformamide (40 ml) is dissolved 7β-(2-thienylacetamido)-3-hydroxymethyl-3-cephem-4-carboxylic acid sodium salt (3.8 g), followed by the addition of N-tosylphthalimide (4.0 g) and triethylamine (2.0 ml) in that order. The mixture is stirred at room temperature for 4 hours. The reaction mixture is poured in water (100 ml) and rinsed with ethyl acetate. The aqueous layer is adjusted to pH 2.0 with dilute phosphoric acid and extracted with ethyl acetate. The extract is dried and, then, a solution of sodium 2-ethylhexanoate in isopropyl alcohol is added. By this procedure is obtained 7β-(2-thienylacetamido)-3-[2-(N-tosylcarbamoyl)benzoyloxy]methyl-3-cephem-4-carboxylic acid sodium salt (4.0 g).

reactant | 7β-(2-thienylacetamido)-3-hydroxymethyl-3-cephem-4-carboxylic acid sodium salt | 3.8 g | [Na+].S1C(=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CO)C(=O)[O-])C1=O
reactant | N-tosylphthalimide | 4.0 g | S(=O)(=O)(C1=CC=C(C)C=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C15H11NO4S
reactant | triethylamine | 2.0 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | 7β-(2-thienylacetamido)-3-[2-(N-tosylcarbamoyl)benzoyloxy]methyl-3-cephem-4-carboxylic acid sodium salt | 4.0 g | [Na+].S1C(=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(C2=C(C=CC=C2)C(NS(=O)(=O)C2=CC=C(C)C=C2)=O)=O)C(=O)[O-])C1=O | InChI=1S/C29H25N3O9S3.Na/c1-16-8-10-19(11-9-16)44(39,40)31-25(34)20-6-2-3-7-21(20)29(38)41-14-17-15-43-27-23(26(35)32(27)24(17)28(36)37)30-22(33)13-18-5-4-12-42-18;/h2-12,23,27H,13-15H2,1H3,(H,30,33)(H,31,34)(H,36,37);/q;+1/p-1/t23-,27-;/m1./s1
